US04122083
1,2,3,4-Tetrahydropyrido[4',3':4,5]thiazolo[3,2-a]benzimidazole (2.29 g., 0.01 mole) in 100 ml. of pyridine at 0° is treated with 1.06 g. (0.01 mole) butyryl chloride. After 24 hours at 5°, the mixture is stripped to a slurry, shaken with sodium bicarbonate and chloroform. Drying and evaporation of the organic solvents gives a solid which is recrystallized from methanol to give pure 2-butyryl-1,2,3,4-tetrahydropyrido[4',3':4,5]thiazolo[3,2-a]benzimidazole.

reactant | 1,2,3,4-Tetrahydropyrido[4',3':4,5]thiazolo[3,2-a]benzimidazole | 0.01 mole, 2.29 g | C1NCCC2=C1SC1=NC3=C(N12)C=CC=C3 | C12H11N3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | butyryl chloride | 0.01 mole | C(CCC)(=O)Cl | C4H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-butyryl-1,2,3,4-tetrahydropyrido[4',3':4,5]thiazolo[3,2-a]benzimidazole | C(CCC)(=O)N1CC2=C(N3C(=NC4=C3C=CC=C4)S2)CC1 | C16H17N3OS
